US07160887B1
A mixture of ethyl 4-aminophenylacetate (3.0 g, 17 mmols), benzenesulfonyl chloride (3.0 g, 17 mmols) and N,N-dimethylacetamide (30 ml) was stirred at room temperature for 2 hours. The reaction mixture was cooled, poured into water, and extracted with ethyl acetate. The extract was washed with water and brine, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure. A 1 N sodium hydroxide solution (50 ml, 50 mmols) was added to a solution of the residue in tetrahydrofuran (50 ml) and ethanol (50 ml). The resulting mixture was stirred at 60° C. for 1 hour. Water was added to the reaction mixture, which was acidified with potassium hydrogensulfate added thereto, and then extracted with ethyl acetate. The extract was washed with water, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure, and the residue was crystallized from hexane/ethyl acetate to give a solid of 4-benzenesulfonylaminophenylacetic acid (3.1 g, 64%).

reactant | ethyl 4-aminophenylacetate | 17 mmols, 3.0 g | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
reactant | benzenesulfonyl chloride | 17 mmols, 3.0 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | sodium hydroxide | 50 mmols, 1 N, 50 ml | [OH-].[Na+]
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | Water | O | H2O
solvent | N,N-dimethylacetamide | 30 ml | CN(C(C)=O)C | C4H9NO
product | 4-benzenesulfonylaminophenylacetic acid | 3.1 g, 64% | C1(=CC=CC=C1)S(=O)(=O)NC1=CC=C(C=C1)CC(=O)O | C14H13NO4S
